Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / amoxicillin
 
Attending: ___.
 
Chief Complaint:
bilateral lower extremity weakness and sensory changes
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ y/o woman w/ insomnia and GERD who presented
after various acute-onset neurologic symptoms.
___, pt developed N/V/D and headache and vertigo that worsened
throughout the day.
___, pt woke up with low back pain (across entire b/l low 
back).
She denies any injuries or other inciting events. She noted leg
paresthesias that developed that morning. Able to walk w/ no
difficulty. Presented to ___ for this problem. While 
there,
pt developed b/l ___ weakness and was transferred to BID ED. By
this point, pt reported RLE strength improving and LLE strength
worsening.
  Noted to have decreased sensation below L3 and LLE weakness 
and
hyperreflexia. Noted to have decreased rectal tone. MRI C-T 
spine
was negative.
  No similar symptoms in past. Pt reports having had migraines 
in
past. No seizures or other neurologic problems.

 
Past Medical History:
insomnia
GERD 
Anxiety
Depression
 
Social History:
___
Family History:
No known neurologic problems or other medical problems.
 
Physical Exam:
Admission Exam:
Gen: Awake; NAD.
HEENT: NC/AT. MMM.
CV: Well-perfused.
Chest: Nonlabored breathing.
Abd: Soft, NT/ND, no masses.
Extr: No deformity.
Neur:
MS: A&Ox4. Mildly anxious. Fluent speech. Follows complex
commands.
CN: PERRL, fundi wnl, EOMI. Symmetric face. Tongue midline.
Mot: B/l ___/ increased tone. Normal tone in core and UEs. LLE
antigravity. RLE ___ on confrontational testing throughout,
limited by proximal pain. B/l UEs w/ full strength throughout.
Reflex: 2+ throughout b/l UEs. 3+ throughout b/l ___.
Coordin: No dysmetria; no ataxia.
Gait: Pt not able to stand.
***************
Discharge Exam:
Gen: Awake; NAD.
HEENT: NC/AT. MMM.
CV: Well-perfused.
Chest: Nonlabored breathing.
Abd: Soft, NT/ND, no masses.
Extr: warm and well perfused, diffusely tender

Neur:
MS: A&Ox4. Fluent speech. Follows simple and complex commands.
CN: PERRL, EOMI. Symmetric face. Tongue midline.
Mot: Strength exam is effort dependent. Able to walk in the 
hallway with a walker. 
Coordin: No dysmetria; no ataxia.
Gait: steady with walker
 
Pertinent Results:
___ 11:30PM BLOOD WBC-3.8* RBC-3.89* Hgb-11.7 Hct-36.1 
MCV-93 MCH-30.1 MCHC-32.4 RDW-13.5 RDWSD-46.2 Plt ___
___ 12:55PM BLOOD WBC-2.5* RBC-3.94 Hgb-11.9 Hct-37.2 
MCV-94 MCH-30.2 MCHC-32.0 RDW-13.2 RDWSD-46.0 Plt ___
___ 07:09AM BLOOD WBC-4.6 RBC-3.85* Hgb-11.7 Hct-36.5 
MCV-95 MCH-30.4 MCHC-32.1 RDW-13.4 RDWSD-46.6* Plt ___
___ 05:15AM BLOOD WBC-4.3 RBC-3.76* Hgb-11.4 Hct-35.6 
MCV-95 MCH-30.3 MCHC-32.0 RDW-13.4 RDWSD-46.9* Plt ___
___ 05:25AM BLOOD WBC-5.0 RBC-3.84* Hgb-11.7 Hct-36.1 
MCV-94 MCH-30.5 MCHC-32.4 RDW-13.3 RDWSD-45.5 Plt ___
___ 05:25AM BLOOD Glucose-105* UreaN-10 Creat-0.7 Na-142 
K-4.0 Cl-106 HCO3-26 AnGap-10
___ 11:30PM BLOOD ALT-10 AST-14 LD(LDH)-130 CK(CPK)-42 
AlkPhos-39 TotBili-0.5
___ 07:09AM BLOOD CK(CPK)-37
___ 05:25AM BLOOD CK(CPK)-28*
___ 11:30PM BLOOD VitB12-756 Folate-11
___ 11:30PM BLOOD CRP-45.4*
___ 07:09AM BLOOD ___ Titer-1:40* CRP-18.1*
___ 05:15AM BLOOD CRP-9.3*
___ 05:25AM BLOOD CRP-5.4*

___ 06:05AM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-1 Polys-0 
___ ___ 06:05AM CEREBROSPINAL FLUID (CSF) TotProt-26 Glucose-55
___ 09:22AM BLOOD %HbA1c-4.7 eAG-88
___ 11:30PM BLOOD TSH-0.70
___ 11:30PM BLOOD HCG-<___ is a ___ y/o woman w/ anxiety, depression, hx of trauma, 
and insomnia who presented w/ acute-onset weakness of b/l ___ 
and sensory changes in the setting of recent GI illness. 

Exam notable for b/l ___ weakness and patchy sensory loss, which 
is somewhat inconsistent, and brisk reflexes. 

She underwent extensive neurological workup including normal MRI 
Spine, normal CT Brain, LP with normal CSF studies (1rbc 1wbc 26 
protein), normal CPK (37), and initially elevated CRP (45) which 
downtrended and normalized. EMG was normal. ___ was positive 
(1:40) but this level can be seen in ~20% of healthy 
individuals. Without other signs suggestive of autoimmune 
disease this is unlikely to be
clinically significant. 

Given the negative workup and fluctuating exam, we believe that 
she likely had a viral illness (nausea, vomiting, diarrhea) and 
developed myalgias and generalized malaise from her viral 
infection that evolved into a functional neurological disorder. 
She has psychiatric comorbidities including anxiety, depression, 
and a history of trauma. 

She made great progress in her strength and mobility during her 
hospitalization. There was one incident where she reported 
passive SI in the setting of a stressful and triggering 
situation. She was evaluated by psychiatry and underwent a full 
safety evaluation and was deemed safe for discharge to home. 
They did not recommend any changes to her medications. It was 
recommended that she follow up with her PCP in order to reengage 
with a psychiatrist and therapist. 

TRANSITIONAL ISSUES:
- please follow up with PCP ___ 1 week
- please have PCP refer to local psychiatrist and therapist
- please continue outpatient ___ 

 
Medications on Admission:
Omeprazole 40 mg PO qd
Mirtazapine 7.5 mg PO qd
 
Discharge Medications:
Omeprazole 40 mg PO qd
Mirtazapine 7.5 mg PO qd
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Functional Neurological Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

You were hospitalized due to weakness and sensory changes. You 
were diagnosed with functional neurological disorder. You made 
exceptional progress while you were in the hospital. 

The website below is a great resource for you:
neurosymptoms.org 

There were no medication changes while you were hospitalized.

Please continue working with outpatient physical therapy. 

You were evaluated by our psychiatry team who recommends getting 
connected to a psychiatrist and therapist. Your primary care 
doctor can refer you to psychiatrists and therapists in your 
area. 

Here are some important phone numbers:
___ Team (Advocates) in the ___ area: 
___ or
___ they're a 24-hour crisis line and can help you
get connected to a psychiatric partial program. 

___ Emergency Services Team (BEST): ___

If you have any safety concerns, please call ___ to an 
emergency department.

It was a pleasure caring for you,
Your ___ Neurology Team

 
Followup Instructions:
___